Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
inability to urinate for 24 hours
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G0 presenting to ED with inability to urinate and
abdominal pressure. Patient reports diagnosis of uterine 
fibroids
"years ago" on routine pelvic exam, however has had no 
complaints
or symptoms related to this for several years. For the past 24
hours, patient has had difficulty urinating with the need to
strain to release urine, and only being able to urinate minimal
amounts. She also has noticed increasing abdominal distention
over the past few weeks. Denies dysuria/vaginal bleeding/unusual
vaginal discharge/fever/chills/nausea/vomiting/change in bowel
habits. 

On arrival to the ED, patient initially had a bedside US
performed by ED team concerning for ?fibroid causing urinary
obstruction. A foley catheter was placed with 700cc of urine 
that
immediately drained. Following placement of the foley, patient
reported significant improvement in her symptoms. 

 
Past Medical History:
OB-GYN Hx: G0. LMP ___. Has monthly periods, however periods
have recently gone from lasting ___ days to close to 10 days.
Last Pap ___ year ago, no hx of abnl Paps. Does not see a
gynecologist. Remote hx of chlamydia. Hx of uterine fibroids as
described above (pt only recalls pelvic ultrasound performed
"years ago" to confirm this diagnosis) 

PMH: HTN
PSH: denies

 
Social History:
___
Family History:
Fam Hx: Father had multiple myeloma. Denies hx of breast/GYN
cancer.

 
Physical Exam:
On admission
Physical Exam:
98 81 157/93 16 100 
Gen: NAD, appears comfortable
Abd: soft, ND, NT, large firm palpable mass with superior most
portion slightly above and to the left of umbilicus. 
Spec: normal vaginal mucosa. Cervix extremely anterior, w/o
lesions or discharge. 
BME: Enlarged firm uterus with limited mobility,extending
laterally to both pelvic side walls, fundus palpated at 
umbilicus
with ?fibroid extension to patient's left. Unable to appreciate
adnexa. 

On day of discharge
VSS
CTAB
RRR
Gen: NAD, appears comfortable
Abd: soft, ND, NT, large firm palpable mass with superior most
portion slightly above and to the left of umbilicus. 
___: nt, ne
 
Pertinent Results:
___ 09:45AM   GLUCOSE-116* UREA N-17 CREAT-1.1 SODIUM-141 
POTASSIUM-3.6 CHLORIDE-104 TOTAL CO2-28 ANION GAP-13
___ 09:45AM   WBC-10.7 RBC-3.79* HGB-9.6* HCT-31.2* MCV-82 
MCH-25.2* MCHC-30.7* RDW-15.5
___ 09:45AM   NEUTS-81.9* LYMPHS-12.1* MONOS-5.1 EOS-0.7 
BASOS-0.3
___ 09:45AM   PLT COUNT-213
___ 06:49AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:49AM URINE  BLOOD-LG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM 
___ 06:49AM URINE  MUCOUS-RARE
___ 06:49AM URINE  RBC-9* WBC-14* BACTERIA-NONE YEAST-NONE 
EPI-0
___ 09:09PM   GLUCOSE-127* UREA N-19 CREAT-1.5* SODIUM-136 
POTASSIUM-3.8 CHLORIDE-98 TOTAL CO2-21* ANION GAP-21*
___ 09:09PM   estGFR-Using this
___ 09:09PM URINE  HOURS-RANDOM
___ 09:09PM URINE  UCG-NEGATIVE
___ 09:09PM   WBC-11.8*# RBC-4.12* HGB-10.7* HCT-33.8* 
MCV-82 MCH-25.9* MCHC-31.6 RDW-15.1
___ 09:09PM   NEUTS-84.2* LYMPHS-10.0* MONOS-5.4 EOS-0.2 
BASOS-0.2
___ 09:09PM   PLT COUNT-213
___ 09:09PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 09:09PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 09:09PM URINE  RBC-30* WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-11

___: Abd/Pelvic U/S FINDINGS: The uterus is enlarged.  
There are multiple masses consistent with fibroids.  The largest 
measures 15.5 x 15.2 x 9.7 cm.  Evaluation of the ovaries is  
limited.  There is no free fluid. IMPRESSION: Fibroid uterus.  
Limited evaluation of the ovaries.   

___: Renal U/S FINDINGS: The right kidney measures 12.2  
cm.  The left kidney measures 11.6 cm.  There is mild 
hydronephrosis bilaterally.  There are no renal stones or 
masses. Renal echogenicity and corticomedullary architecture is 
within normal limits.  Limited evaluation of the bladder. 
IMPRESSION: Mild bilateral hydronephrosis. No evidence of stones 
or renal masses.

___: MRI A/P:  FINDINGS: 
  
The uterus is massively enlarged, measuring up to 22.2 x 11.8 x 
14.6 cm, 
essentially filling the entire pelvis.  There are multiple T2 
hypointense 
well-defined masses throughout the uterus, most compatible with 
fibroids, the 
largest of which is predominantly exophytic, extending from the 
right aspect 
of the lower uterus, measuring 14.6 x 10.4 x 10.6 cm (CC x AP x 
TV).  This 
fibroid markedly distorts the adjacent cervix and endometrium, 
which are 
displaced to the left.  Several additional heterogeneously 
enhancing fibroids 
are seen within the uterine fundus, measuring up to 5.0 cm (4: 
13), some of 
which demonstrate submucosal components.  
  
The ovaries are displaced superiorly, but otherwise normal.  The 
bladder is 
markedly compressed and displaced anteriorly by the enlarged 
fibroid uterus.  
A Foley catheter is seen within the bladder.  There is bilateral 

hydronephrosis and hydroureter, as seen on the prior ultrasound 
dated ___.  T2 hyperintense nonenhancing lesions within both 
kidneys 
measure up to 9 mm in the left interpolar region, compatible 
with simple 
cysts.  Limited assessment of the liver, pancreas, adrenal 
glands, stomach, 
small bowel, and colon is unremarkable.  There are no 
pathologically enlarged 
abdominal or pelvic lymph nodes.  The abdominal aorta is normal 
in caliber.  
There is minimal free fluid in the pelvis.   
  
IMPRESSION: 
  
1.  Massively enlarged fibroid uterus with a dominant 14.6 cm 
fibroid along 
the right aspect of the lower uterine body, causing distortion 
and 
displacement of the cervix and adjacent endometrium.  Multiple 
additional 
smaller fibroids throughout the remainder of the uterus, some of 
which have 
submucosal components.  
  
2.  Bilateral hydronephrosis and hydroureter, as seen on prior 
ultrasound from 
___, almost certainly secondary to compression from 
the enlarged 
uterus.   
  
3.  Bilateral simple renal cysts 

 
Brief Hospital Course:
Ms ___ was seen in the emergency department with acute 
urinary retention. A foley catheter was placed for 700cc urine. 
On ultrasound evaluation her multifibroid uterus was seen to be 
severely compressing her urinary bladder and there was bilateral 
mild hydronephrosis and hydroureter. Her creatinine was 1.5 at 
this time. She was thus admitted overnight for IVF and 
observation. An MRI was also done, given the rapid time course 
of onset of symptoms to r/o leimyosarcoma. MRI was c/w prior 
ultrasound results and fibriods did not have the appreance of 
leiomyosarcomas. Please see separate MRI report for full 
details. On the morning of hospital day number 2 her Cr had 
fallen to 1.1. She was discharged on HD#2 with a urinary foley 
catheter to prevent further urinary retention. She was discharge 
with a plan for likely hysterectomy and close outpatient 
follow-up to further discuss management.
 
Medications on Admission:
HCTZ and "cholesterol medication"

 
Discharge Medications:
same
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fibroid uterus causing obstruction of your bladder and acute 
kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General instructions:  
* You may eat a regular diet  

Call your doctor for:  
* fever > 100.4, chills  
* severe abdominal pain  
* changes in the appearance of your urine
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___. 
 
*) You were discharged home with a Foley (bladder) catheter and 
received teaching for it prior to discharge. You may need to 
keep this catheter in place until your surgery. 
 
Followup Instructions:
___